US04091025
Synthesis of 2-bromo-3-cyano-4,6-diamino-5-nitro-pyridine
460 Parts of concentrated H2SO4 are charged into a reaction vessel and 106.5 parts of 2-bromo-3-cyano-4,6-diamino-pyridine are added by small amounts whilst the temperature is kept at 15°-20° C by cooling with ice. After the starting material has dissolved completely, the solution is cooled to 10° to 15° C and at this temperature 69.1 g of nitrosulphuric acid (50%) are added dropwise in the course of 45 minutes. When the addition is complete, the reaction solution is stirred for 11/2 hours at room temperature, then poured onto 500 parts of ice so that the temperature does not exceed 20°-25° C (ice bath). The suspension is neutralised with 1000 parts of concentrated NaOH while cooling, whereupon the product precipitates completely. The brown product is filtered off, washed free of salt with 1500 parts of water and dried in vacuo at 70° C.

reactant | H2SO4 | OS(=O)(=O)O | H2O4S
reactant | 2-bromo-3-cyano-4,6-diamino-pyridine | BrC1=NC(=CC(=C1C#N)N)N | C6H5BrN4
reactant | nitrosulphuric acid | 69.1 g | [N+](=O)([O-])OS(O)(=O)=O | HNO6S
reactant | NaOH | [OH-].[Na+]
product | 2-bromo-3-cyano-4,6-diamino-5-nitro-pyridine | BrC1=NC(=C(C(=C1C#N)N)[N+](=O)[O-])N | C6H4BrN5O2
